### PR TITLE
[Merged by Bors] - chore: Move monoid with zero instances on pi types

### PR DESCRIPTION
**Pull request by YaelDillies**
Move everything that can't be additivised out of `Algebra.Group.Pi.Lemmas`:
* `MulZeroClass`, `MulZeroOneClass`, etc... instances go to a new `Algebra.GroupWithZero.Pi` file. I credit Eric W. for https://github.com/leanprover-community/mathlib/pull/4766.
* `AddMonoidWithOne`, `AddGroupWithOne` instances go to `Algebra.Ring.Pi`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Moments.lean [hunk 1]
```diff
@@ -61,7 +61,7 @@ def centralMoment (X : Ω → ℝ) (p : ℕ) (μ : Measure Ω) : ℝ := by
 @[simp]
 theorem moment_zero (hp : p ≠ 0) : moment 0 p μ = 0 := by
   simp only [moment, hp, zero_pow, Ne, not_false_iff, Pi.zero_apply, integral_const,
-    smul_eq_mul, mul_zero]
+    smul_eq_mul, mul_zero, integral_zero]
```
Comment (YaelDillies) [inline Mathlib/Probability/Moments.lean:64]: No idea why thos was needed

**Comment by eric-wieser** [comment]
Can you split the `mulSingle` rename to a separate PR?

**Comment by YaelDillies** [comment]
See #12317

File: Mathlib/Algebra/GroupWithZero/Pi.lean [hunk 2]
```diff
@@ -0,0 +1,87 @@
...
+variable {ι : Type*} {α : ι → Type*}
+
+namespace Pi
+
+section MulZeroClass
+variable [∀ i, MulZeroClass (α i)] [DecidableEq ι] {i j : ι} {f : ∀ i, α i}
+
+instance mulZeroClass : MulZeroClass (∀ i, α i) where
+    zero_mul := by intros; ext; exact zero_mul _
+    mul_zero := by intros; ext; exact mul_zero _
```
Comment (eric-wieser) [inline Mathlib/Algebra/GroupWithZero/Pi.lean:29]:
```suggestion
instance mulZeroClass : MulZeroClass (∀ i, α i) where
  zero_mul := by intros; ext; exact zero_mul _
  mul_zero := by intros; ext; exact mul_zero _
```

File: Mathlib/Algebra/Group/Pi/Lemmas.lean [hunk 3]
```diff
@@ -305,17 +265,6 @@ theorem MonoidHom.single_apply [∀ i, MulOneClass <| f i] (i : I) (x : f i) :
 #align monoid_hom.single_apply MonoidHom.single_apply
 #align add_monoid_hom.single_apply AddMonoidHom.single_apply
 
-/-- The multiplicative homomorphism including a single `MulZeroClass`
-into a dependent family of `MulZeroClass`es, as functions supported at a point.
-
-This is the `MulHom` version of `Pi.single`. -/
-@[simps]
-def MulHom.single [∀ i, MulZeroClass <| f i] (i : I) : f i →ₙ* ∀ i, f i where
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Pi/Lemmas.lean:313]: Why did you rename this? Doesn't this name match `AddMonoidHom.single`?

Comment (YaelDillies) [reply Mathlib/Algebra/Group/Pi/Lemmas.lean:313]: My reasoning was that it's better to have `Pi.single` somewhere in the name, and also it fits with the other declarations in the `Pi` namespace. But yes I see that it has many friends which I haven't renamed.

Thoughts?

Comment (Vierkantor) [reply Mathlib/Algebra/Group/Pi/Lemmas.lean:313]: Since there's a defensible argument to not do this change, let's postpone it to a separate PR that renames all the `single`s at once. I much prefer PRs that try to do as little as possible.

File: Mathlib/Algebra/Group/Hom/End.lean [hunk 4]
```diff
@@ -24,20 +24,37 @@ universe uM uN uP uQ
...
+@[simp]
+lemma natCast_apply [AddCommMonoid M] (n : ℕ) (m : M) : (↑n : AddMonoid.End M) m = n • m := rfl
+#align add_monoid.End.nat_cast_apply AddMonoid.End.natCast_apply
 
-instance AddMonoid.End.instSemiring [AddCommMonoid M] : Semiring (AddMonoid.End M) :=
+-- See note [no_index around OfNat.ofNat]
+@[simp] lemma ofNat_apply [AddCommMonoid M] (n : ℕ) [n.AtLeastTwo] (m : M) :
+    (no_index (OfNat.ofNat n : AddMonoid.End M)) m = n • m := rfl
+
+
```
Comment (Vierkantor) [inline Mathlib/Algebra/Group/Hom/End.lean:43]:
```suggestion
```

**Review by Vierkantor — APPROVED** [review]
Looks good to me otherwise!

bors d+
